US07365064B2
Starting from 2-nitrophenol (1.0 g, 1 eq, 7.19 mmol) and ethyl 2-bromopentanoate (2.97 ml, 3.0 eq, 21.54 mmol) the procedure of step (i), preparation 17 was followed to obtain ethyl 2-(2-nitrophenoxy)pentanoate (2.0 g) as crude which was used for step (ii).

reactant | 2-nitrophenol | 7.19 mmol, 1.0 g, 1 eq | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | ethyl 2-bromopentanoate | 21.54 mmol, 2.97 ml, 3.0 eq | BrC(C(=O)OCC)CCC | C7H13BrO2
product | ethyl 2-(2-nitrophenoxy)pentanoate | 2.0 g | [N+](=O)([O-])C1=C(OC(C(=O)OCC)CCC)C=CC=C1 | C13H17NO5
